### PR TITLE
Pullbacks of short exact sequences

### PR DESCRIPTION
**Pull request by jarlg**
Implements pullbacks of short exact sequences. See questions and comments inline.

I couldn't find `equiv_hfiber_embedding` elsewhere in the library. It seems too particular to embeddings to be somewhere in Modalities/, though I may be wrong. Not sure where else to look.

### CODE REVIEW

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 1]
```diff
@@ -15,43 +16,219 @@ Proof.
...
     rapply (transport IsHProp (x:= hfiber f 0)).
     + apply path_universe_uncurried; symmetry.
       apply equiv_grp_hfiber.
-      exact a.
-    + rapply (transport IsHProp (x:= grp_trivial)).
-      apply path_universe_uncurried.
-      rapply Build_Equiv.
-      apply isequiv_contr_map.
-      exact conn.
+      exact a; clear a.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v]: Is the `clear a` a leftover from something?  Since `exact a` leaves no goals unsolved, I think it's a noop.

File: theories/HFiber.v [hunk 2]
```diff
@@ -255,3 +255,35 @@ Definition equiv_isequiv_ap_isembedding `{Funext} {A B} (f : A -> B)
...
+    + cbn. intros [x p].
+      apply equiv_path_sigma.
+      exists idpath; cbn.
+      apply ap_isinj_embedding_beta.
+    + cbn. intros [x p].
+      rapply equiv_path_sigma; exists 1; cbn.
+      (* jarlg: This point onwards could be a lemma / beta-type rule. *)
+      induction p.
+      refine (ap _ (ap_1 _ g) @ _).
+      apply isinj_embedding_beta.
```
Comment (jdchristensen) [inline theories/HFiber.v]: The proof can be replaced with:
```coq
  apply equiv_functor_sigma_id.
  intro x.
  srapply equiv_ap_isembedding.
```
Alternatively, this result is just a special case of `hfiber_compose` combined with some simplifications.  But maybe that ends up being harder to write down.

File: theories/Limits/Pullback.v [hunk 3]
```diff
@@ -372,3 +372,17 @@ Section Pasting.
   Defined.
 
 End Pasting.
+
+(** The corec-induced map into a pullback of sets is an embedding if one of the inducing maps is one. *)
+Lemma isembedding_pullback_corec_embedding {A B C X : hSet} {f : B -> A} {g : C -> A}
+         {xb : X -> B} {xc : X -> C} {h : f o xb == g o xc} `{IsEmbedding xb}
+  : IsEmbedding (pullback_corec h).
+(* jarlg: I'm sure this is true more generally, but this is what I need. You could argue it should be moved elsewhere since it pertains to h-sets, but it's not too bad here either (and serves as a placeholder for a more general statement). *)
```
Comment (jdchristensen) [inline theories/Limits/Pullback.v]: This result doesn't have anything to do with pullbacks.  It just says that if you have `f : A -> B` and `g : B -> C` with `g o f` an embedding and `B` an HSet, then `f` is an embedding.  It might fit with the results currently at the end of HFiber.v.  Here's how it could look:
```coq
Lemma cancelL_isembedding {A B C : Type} `{IsHSet B} {f : A -> B} {g : B -> C} `{IsEmbedding (g o f)}
  : IsEmbedding f.
Proof.
  apply isembedding_isinj_hset.
  intros a0 a1 p.
  apply (equiv_ap_isembedding (g o f) a0 a1)^-1%equiv.
  exact (ap g p).
Defined.
```
I don't know if it generalizes to `g o f` being n-truncated and `B` being (n+1)-truncated.

**Review by jdchristensen — COMMENTED** [review]
I haven't finished looking this over, but am out of time now, so I'll submit these comments.

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 1 above)
Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v]: `a` is introduced in the first `-` bullet, and is only needed to prove the first `+` bullet, so I thought I'd clear it from the hypotheses since it isn't needed for the second `+` bullet. I see now that didn't actually work, and `a` remains a hypothesis in the second `+` bullet. (`clear` only pertains to the most local scope, it seems.) I'll just remove the `clear`.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v]: The `clear a` tactic doesn't run at all, since the semicolon operator only applies the following tactic to subgoals produced by the tactic to the left of the semicolon.  Since `exact` doesn't produce any subgoals, the clear tactic never runs.

File: theories/HFiber.v (hunk 2 above)
Comment (jarlg) [reply theories/HFiber.v]: Thanks, that's a lot better. I'm inlining this and removing `equiv_hfiber_embedding`. You're probably right that it can be done with `hfiber_compose` as well; after `symmetry; srefine (_ oE hfiber_compose f g (g y)).` you end up with the goal
`{w : hfiber g (g y) & hfiber f w.1} <~> hfiber f y`
where the LHS has a contractible base (since `g` is an embedding) with center `(y; idpath)`, over which the LHS fibre is the RHS. I don't think that's an improvement on the three lines you wrote, so I'll stick with those.

File: theories/Limits/Pullback.v (hunk 3 above)
Comment (jarlg) [reply theories/Limits/Pullback.v]: You're right, thanks!

Comment (jdchristensen) [reply theories/Limits/Pullback.v]: Another way to organize things would be to create `cancelL_isinjective`, which works without the `HSet` assumption.  We always have that `IsEmbedding` implies `IsInjective`, and the converse holds when the target is an `HSet`, so these results could be chained together instead of the above Lemma, which looks less natural.

Comment (jarlg) [reply theories/Limits/Pullback.v]: I agree, that's even nicer. I've implemented this in the latest commit, and I placed `cancelL_isinjective` in `Types.Arrow`.

**Comment by jdchristensen** [comment]
Thanks.  Hopefully I'll get more time later this week to review more of this PR.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 4]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+(** For a pointed set Y and a function f : X -> Y, the projection map from the fibre to X is an embedding. *)
+(* jarlg: This is mapinO_pr1, with some juggling. Can't be placed in HSet.v or HFiber.v due to dependencies. Could be inlined using rapply, but that takes a second to resolve. So a lemma seems justified, but where should it be placed? *)
+Lemma isembedding_pr1_hset `{Funext} {X Y : hSet} (f : X -> Y) (y : Y)
+  : IsEmbedding (pr1 : hfiber f y -> X).
+Proof.
+  (* jarlg: rapply here works, but it's faster to give the whole proof. *)
+  nrapply (snd (iff_forall_inO_mapinO_pr1 (Tr (-1)) _)).
+  apply mapinO_pr1.
+  exact inO_hfiber_ino_map.
+Defined.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:48]: Proof can be replaced with
```coq
rapply istruncmap_mapinO_tr.
```
which is fast.  I think that your proof was going back and forth across the equivalence `iff_forall_inO_mapinO_pr1`.  (The first component of that equivalence is `mapinO_pr1`.)

Also, `X` can be any type.  It doesn't need to be a set.

Not sure if it's better to just inline this one line proof, or keep this Lemma since it is handy.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 5]
```diff
@@ -15,43 +16,225 @@ Proof.
...
-      exact conn.
+    + apply hprop_allpath.
+      intros x y.
+      assert (u : Tr (-1) (hfiber (cxfib cx) x)) by apply (conn x).
+      assert (v : Tr (-1) (hfiber (cxfib cx) y)) by apply (conn y).
+      strip_truncations. (* jarlg: Slightly slow, would be good to avoid. *)
+      refine (u.2^ @ _ @ v.2).
+      apply (isinj_embedding pr1).
+      * apply isembedding_pr1_hset.
+      * reflexivity.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:69]: This `+` block can be replaced with
```coq
    + snrapply trunc_contr.
      exists (mon_unit : grp_kernel f).
      intro y.
      apply path_sigma_hprop; simpl.
      assert (v : Tr (-1) (hfiber (cxfib cx) y)) by apply (conn y).
      strip_truncations.
      exact (ap pr1 v.2).
```
It's only slightly shorter, but relies on fewer special results.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 6]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+  - intro conn_f.
+    exists (grp_iscomplex_trivial_r f); cbn.
+    intro b.
+    apply (@transport _ Contr (Tr (-1) (hfiber f b.1)) (Tr (-1) (hfiber (fun x:A => (f x; idpath)) b))).
+    + apply (ap (Tr (-1))).
+      apply path_universe_uncurried; symmetry.
+      rapply equiv_functor_sigma_id.
+      intro x.
+      nrapply (equiv_ap_isembedding pr1).
+      apply isembedding_pr1_hset.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:107]: This `+` block is repeated twice in the proof, so it should be a Lemma.  But I think there's also a more conceptual way to organize this. You could have a lemma that says that the natural map `pr1` from the fibre of f to B is an equivalence.  Once you have that, then for any reflective subuniverse O, f is O-connected iff the map cxfib is O-connected (using `cancelR_isequiv_conn_map` and nearby things), since the triangle commutes.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 7]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+Definition ses_A (S : ShortExactSequence) : Group := ses_carrier S [3].
+Definition ses_B (S : ShortExactSequence) : Group := ses_carrier S [2].
+Definition ses_C (S : ShortExactSequence) : Group := ses_carrier S [1].
+
+Definition ses_i (S : ShortExactSequence) : ses_A S $-> ses_B S := ses_fn S [2].
+Definition ses_p (S : ShortExactSequence) : ses_B S $-> ses_C S := ses_fn S [1].
+
+Definition ses_cx_B (S : ShortExactSequence) : ses_p S $o ses_i S == grp_homo_const.
+Proof.
+  pose (E := (ses_isexact S [1])); exact cx_isexact.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:152]: This is a bit confusing since you don't explicitly use E.  I'm having trouble figuring out how it gets used.  Can you instead inline `ses_isexact S [1]` into the call to `cx_isexact` as a named argument?  Or is it used in a more indirect way?

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 8]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+  - rapply isembedding_isinj_hset.
+    rapply (cancelL_isinjective (g:=grp_pullback_pr1 (ses_p S) phi)); cbn.
+    apply isinj_embedding.
+    apply (equiv_grp_isexact_isembedding (K:=ses_carrier S [4])).
+    apply (transport (fun f => IsExact (Tr (-1)) f (ses_i S)) (x:=ses_fn S [3])).
+
+    (* jarlg: How to do this bullet nicely? *)
+    + pose (c := ses_start S).
+      assert (c' : Contr (ses_carrier S [4] ->* ses_carrier S [3])) by apply contr_pmap_from_contr.
+      apply path_contr.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:196]: I would do something like
```coq
    + srapply path_contr.
      srapply contr_pmap_from_contr.
      srapply trunc_contr.
      exact (ses_start S).
```

**Review by jdchristensen — COMMENTED** [review]
I'm not done yet, but here are some comments.

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 6 above)
Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:107]: I meant to say that the map `pr1 : F -> B` is an equivalence, where `F` is the fibre of the *constant* map `B -> C`.  Then you get maps `cxfib : A -> F` and `pr1 : F -> B` whose composite is `f`.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 9]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+  - FinInd; cbn.
+    + rapply (equiv_grp_isexact_issurjection p)^-1%equiv.
+    + exact E.
+    + rapply (equiv_grp_isexact_isembedding i)^-1%equiv.
+Defined.
+
+Lemma ses_pb `{Univalence} {C : Group} (S : ShortExactSequence) (phi : C $-> ses_C S)
+  : ShortExactSequence.
+Proof.
+  pose (B' := grp_pullback (ses_p S) phi).
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:175]: Drop the `pose` line.  (It could be used a few lines down, but it seems fine to have it inlined there.)

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 10]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+
+  snrapply (Build_SES (Z:=ses_carrier S [4]) (Z':=ses_carrier S [0])
+                   (B:=grp_pullback (ses_p S) phi)
+                   (grp_pullback_corec _ _ (ses_i S) grp_homo_const _)
+                   (grp_pullback_pr2 (ses_p S) phi)).
+  - exact H.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:181]: `exact _. (* Univalence. *)` would be better, since the name given to the Univalence hypothesis could change.

Or, change `snrapply` to `srapply`, and delete this line.  This is probably better.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 11]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+Record ShortExactSequence : Type :=
+{
+  ses_carrier : Fin 5 -> Group;
+  ses_end : Contr (ses_carrier [0]);
+  ses_start : Contr (ses_carrier [4]);
+  ses_fn : forall n : Fin 4, ses_carrier n.+1 $-> ses_carrier n.+0;
+  ses_isexact : forall n : Fin 3, IsExact (Tr (-1)) (ses_fn n.+1) (ses_fn n.+0)
+}.
+
+Definition Build_ses_carrier (Z A B C Z' : Group) `{Contr Z} `{Contr Z'}
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:130]: The `Contr` arguments are unused, so it seems odd to have them.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 12]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+Defined.
+
+(** * Short exact sequences *)
+
+Local Open Scope nat_scope.
+
+(* jarlg: Could this notation be improved? Should we enable it in Spaces.Finite and import it from there? *)
+Local Notation "n .+1" := (fsucc n).
+Local Notation "n .+0" := (fin_incl n) (at level 0).
+Local Notation "[ n ]" := (fin_nat n).
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:118]: I don't really like the first two notations, since they land in different types.  Maybe it's clearer to just use fsucc and fin_incl?

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 13]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+Definition Build_ses_carrier (Z A B C Z' : Group) `{Contr Z} `{Contr Z'}
+  : Fin 5 -> Group.
+Proof.
+  FinInd.
+  - exact Z.
+  - exact C.
+  - exact B.
+  - exact A.
+  - exact Z'.
+Defined.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:139]: I wonder if the FinInd tactic could be generalized to accept arguments giving the values...  (Not part of this PR, though.)

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 14]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+                   (grp_pullback_pr2 (ses_p S) phi)).
+  - exact H.
+  - exact (ses_start S).
+  - exact (ses_end S).
+  - intro x; exact (ses_cx_B S x @ (grp_homo_unit phi)^).
+
+  (** The corec-induced map into the pullback is an embedding, since (ses_i S) is one. *)
+  - rapply isembedding_isinj_hset.
+    rapply (cancelL_isinjective (g:=grp_pullback_pr1 (ses_p S) phi)); cbn.
+    apply isinj_embedding.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:189]: This came up in the earlier discussion, but I think it's worth having these three lines recorded as a lemma.
```coq
Lemma cancelL_isembedding {A B C : Type} `{IsHSet B} {f : A -> B} {g : B -> C} `{IsEmbedding (g o f)}
  : IsEmbedding f.
Proof.
  apply isembedding_isinj_hset.
  rapply (cancelL_isinjective (g:=g)).
  rapply isinj_embedding.
Defined.
```

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 15]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+    apply (equiv_grp_isexact_isembedding (K:=ses_carrier S [4])).
+    apply (transport (fun f => IsExact (Tr (-1)) f (ses_i S)) (x:=ses_fn S [3])).
+
+    (* jarlg: How to do this bullet nicely? *)
+    + pose (c := ses_start S).
+      assert (c' : Contr (ses_carrier S [4] ->* ses_carrier S [3])) by apply contr_pmap_from_contr.
+      apply path_contr.
+
+    + exact (ses_isexact S [2]).
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:198]: After the cancelL part, the rest is just showing that in any SES, the map i is an embedding.  This should be a lemma.

The proof is made more complicated by the generality of an SES.  E.g., it isn't assumed that the very first and last maps are grp_homo_const, even though they must be equal to them.  (This could be another lemma.)  And it isn't assumed that Z and Z' are the trivial group, just that they are contractible.  It's unclear if this generality is worth it, but if you want it, various lemmas will help ease the pain.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 16]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+
+  (** The pullback of the surjection (ses_p S) along phi is a surjection. *)
+  - rapply conn_map_pullback'.
+    apply (equiv_grp_isexact_issurjection (C:=ses_carrier S [0])).
+    apply (transport (fun f => IsExact (Tr (-1)) (ses_p S) f) (x:=ses_fn S [0])).
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:203]: Instead of providing the type family and x, you can just provide the thing being transported:
```coq
snrapply (transport _ _ (ses_isexact S [0])).
```
Then there is only one goal.  A similar trick will probably simplify the earlier transport.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 17]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+    + intros [b' p]; cbn.
+      rapply contr_inhabited_hprop.
+      pose (bf := (grp_pullback_pr1 _ _ b'; ((pullback_commsq (ses_p S) phi) b' @ ap phi p @ grp_homo_unit phi)) : pfiber (ses_p S)).
+      pose proof (@center _ (conn_map_isexact (IsExact:=ses_isexact S [1]) bf)) as y.
+      strip_truncations.
+      destruct y as [y q].
+      apply tr.
+      exists y.
+
+      nrapply equiv_path_sigma_hprop.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:226]: Drop the `equiv_`.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 18]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+
+      * intro a.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:228]: b is a better letter than a, here.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 19]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+        unfold ispointed_group. (* jarlg: Why is this necessary? *)
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:229]: I don't see why it is necessary.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 20]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+        exact _. (* jarlg: What is this finding? *)
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:230]: You can replace the two previous lines with `rapply istrunc_paths`.

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 21]
```diff
@@ -15,43 +16,225 @@ Proof.
...
+
+      * apply equiv_path_sigma.
+        exists (ap pr1 q).
+        refine (transport_sigma' _ _@ _); cbn.
+        apply equiv_path_sigma; cbn.
+        exists p^; apply path_ishprop.
+
+        Unshelve. (* jarlg: Can this be avoided? *)
+        all: exact _.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/ShortExactSequence.v:239]: The last `*` section can be replaced with:
```coq
      * simpl. snrapply path_sigma.
        -- exact (ap pr1 q).
        -- refine (transport_sigma' _ _ @ _); cbn.
           srapply path_sigma; cbn.
           ++ exact p^.
           ++ apply path_ishprop.
```
It avoids `equiv_` versions of things and somehow avoids the last two lines.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:239]: In fact, the entire last `+` section can be replaced with
```coq
    + snrapply (cancelR_equiv_conn_map _ _ (pfiber_pullback_along' phi (ses_p S))).
      refine (conn_map_homotopic _ _ _ _ (conn_map_isexact (IsExact:=ses_isexact S [1]))).
      cbn.
      intro a.
      rapply path_sigma_hprop.
      -- intro a'.  rapply istrunc_paths.
      -- reflexivity.
```
with the addition of this Lemma:
```coq
(* This could be abstracted so that the pullback is known to be a pointed type and the pullback projections are known to be pointed maps. *)
Definition pfiber_pullback_along' {A B C} (g : C ->* A) (f : B -> A)
  : hfiber (g ^*' f) (point C) <~> hfiber f (point A).
Proof.
  refine (_ oE hfiber_pullback_along' _ _ _); cbn.
  srapply (equiv_functor_hfiber2 (h:=equiv_idmap) (k:=equiv_idmap)).
  -- reflexivity.
  -- apply (point_eq g).
Defined.
```
This is a conceptually cleaner proof.  The two cxfib maps are equal, up to an equivalence, since the induced map between fibers in a pullback square is an equivalence.  So if one cxfib map is O-connected, so is the other.

**Review by jdchristensen — COMMENTED** [review]
More updates, but still more to come another day.

**Comment by jdchristensen** [comment]
Should I push a version with my changes so far?  Or e-mail it to you?

File: theories/Pointed/pMap.v [hunk 22]
```diff
@@ -205,3 +205,24 @@ Proof.
   refine (ap _ path_pforall_1 @ path_pforall_1^ @ ap _ _^).
   exact (path_pforall (pmap_compose_ppforall2_refl _ _)).
 Defined.
+
+(** The space of pointed maps from a contractible type is contractible. (Assuming X is a proposition suffices to be contractible since X is pointed.) *)
+Proposition contr_pmap_from_contr `{Funext} {X Y : pType} `{IsHProp X}
```
Comment (jdchristensen) [inline theories/Pointed/pMap.v:210]: I think the name should match the hypotheses, so either change '_contr' to '_hprop' or change the hypothesis to Contr X.  Maybe the latter, since it adds a step both in the proof here and in the usage of contr_pmap_from_contr to use the weaker hypothesis.  (OTOH, the proof of contr_dom_equiv only uses that the domain is an hprop, so there is a one-line proof that could be substituted.)  I have given both options in the jdc-ses branch.

File: theories/Pointed/pMap.v [hunk 23]
```diff
@@ -205,3 +205,24 @@ Proof.
...
+  : Contr (X ->* Y).
+Proof.
+  srapply Build_Contr.
```
Comment (jdchristensen) [inline theories/Pointed/pMap.v:213]: Not needed.  Can use `exists pconst` instead.

File: theories/Pointed/pMap.v [hunk 24]
```diff
@@ -205,3 +205,24 @@ Proof.
...
+  - exact pconst.
+  - intro f.
+    apply equiv_path_pforall.
+    srapply Build_pHomotopy.
+    + intro x.
+      assert (C : Contr X) by exact (contr_inhabited_hprop _ x).
+      pose (c := (contr x)^ @ contr (point X)).
```
Comment (jdchristensen) [inline theories/Pointed/pMap.v:220]: Unused.

File: theories/Pointed/pMap.v [hunk 25]
```diff
@@ -205,3 +205,24 @@ Proof.
...
+      exact ((point_eq f)^ @ contr_dom_equiv f (point _) x).
+    + cbn.
+      unfold contr_dom_equiv.
+      refine (_ @ (concat_1p _)^).
+      apply moveR_Mp.
+      refine (ap (ap f) (concat_Vp (contr (point X))) @ _ @ (concat_Vp _)^).
+      apply ap_1.
```
Comment (jdchristensen) [inline theories/Pointed/pMap.v:227]: ap_1 is just reflexivity, so is not needed.  You can just remove the central underscore in the previous line and get a simpler proof term.

File: theories/Pointed/pMap.v [hunk 26]
```diff
@@ -205,3 +205,24 @@ Proof.
...
+Defined.
```
Comment (jdchristensen) [inline theories/Pointed/pMap.v:228]: These and other simplifications are in my jdc-ses branch.

File: theories/HFiber.v [hunk 27]
```diff
@@ -255,3 +255,13 @@ Definition equiv_isequiv_ap_isembedding `{Funext} {A B} (f : A -> B)
...
 Defined.
+
+Lemma ap_isinj_embedding_beta {X Y : Type} (f : X -> Y) {I : IsEmbedding f} {x0 x1 : X}
+  : forall (p : f x0 = f x1), ap f (isinj_embedding f I x0 x1 p) = p.
+Proof.
+  equiv_intro (equiv_ap_isembedding f x0 x1) q.
+  induction q. cbn.
+  refine (ap _ _ @ _).
+  - exact (isinj_embedding_beta f).
+  - apply ap_1.
```
Comment (jdchristensen) [inline theories/HFiber.v:266]: Since ap_1 is reflexivity, this can also be simplified.  See jdc-ses branch.

File: theories/Types/Arrow.v [hunk 28]
```diff
@@ -221,3 +221,38 @@ Proof.
...
+  pose (ise (m y)).
+  assert (q : (x;p) = (y;idpath) :> hfiber m (m y)) by apply path_ishprop.
+  exact (ap pr1 q).
+Defined.
+
+(** Computation rules for isinj_embedding. *)
+Lemma isinj_embedding_beta {X Y : Type} (f : X -> Y) {I : IsEmbedding f} {x : X}
+  : (isinj_embedding f I x x idpath) = idpath.
+Proof.
+  exact (ap (ap pr1) (contr (idpath : (x;idpath) = (x;idpath)))).
```
Comment (jdchristensen) [inline theories/Types/Arrow.v:242]: An unfold before this line makes it clearer.  See jdc-ses branch.

**Review by jdchristensen — COMMENTED** [review]
Ok, I've now reviewed it all.  I decided to make changes in a new branch, jdc-ses, to make it easier for you to view them.

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 4 above)
Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Nice, that's better! I think this is a type of result that Coq should find automatically, and we're almost there as it is. Let me explain. There are 3 steps going on here:

1. `IsEmbedding pr1` is changed to `MapIn (Tr (-1)) pr1` by `istruncmap_mapinO_tr`;
2. Coq finds the Instance `mapinO_pr1`; and finally
3. Coq knows that `forall x:X, In (Tr (-1)) (f x = y)` since `Y` is a set.

If in `Truncations.Core` we had chosen to make `istruncmap_mapinO_tr` a Global Instance instead of it's inverse `mapinO_tr_istruncmap`, then the proof would just be `exact _.` (i.e. Coq would know it). Currently, `istruncmap_mapinO_tr` is an Immediate hint which means only a 0-cost tactic can be applied after it (these are the ones found by `trivial.`). An Instance has cost 1, so `mapinO_pr1` isn't a candidate, and that's what I mean by "we're almost there".

(You can check that the above works by adding this just before the Lemma:
```Coq
Remove Hints mapinO_tr_istruncmap istruncmap_mapinO_tr : typeclass_instances.
Local Existing Instance istruncmap_mapinO_tr.
```
Then `exact _.` works. Further, you replace this line by
```Coq
Set Info Eauto.
eauto with typeclass_instances.
```
to see exactly the proof Coq finds.)

Of course, making `istruncmap_mapinO_tr` anything but an Immediate hint causes infinite loops, so we can't do that. However I think the Lemma is particular enough that we can add it as a Hint:

```Coq
Hint Extern 5 (IsEmbedding pr1) => apply isembedding_pr1_hset; solve [ trivial ] : typeclass_instances.
```

Since `IsEmbedding pr1` is pretty specific, having a low cost is fine since this won't be picked up often. And when it is picked up, `solve` ensures that it fails if `trivial.` doesn't solve the goal completely; i.e. it doesn't continue recursively to try solving the goal. This makes it a low-impact Hint, and avoids any infinite loops in particular.

Putting the above Hint and Lemma into `Truncations.Core` (and adding `ReflexiveSubuniverse` as import) doesn't change build time, which I think shows this is feasible. It isn't used anywhere else in the library, but it's the kind of ergonomics I think we should have (and it would have saved me time finding the first convoluted proof).

(It might seem like `Hint Immediate` would be perfect here, but it turns out `simple apply` isn't strong enough to apply the Lemma in many cases. So this Extern tactic is really needed, I think.)

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 5 above)
Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:69]: Indeed that's better. Remains to see if the assert can be avoided entirely.

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 7 above)
Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:152]: Yeah, this works: `exact (cx_isexact (IsExact := ses_isexact S [1])).` after changing the statement to be about pointed maps and not group homomorphisms. The usage still works below though, so I'll keep this for now.

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 4 above)
Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Nice analysis.  I'm not 100% sure what the best way to proceed is, but your `Hint Extern` for `isembedding_pr1_hset` seems reasonable.  It's too bad we can't find a way to solve the more fundamental problem that `istruncmap_mapinO_tr` isn't used automatically.  I wonder if there's some way to use things like `solve [ auto 1 ]` (or `solve [ auto 1 with typeclass_instances ]`?) instead of `solve [ trivial ]` to make both directions get used, but not loop?  I also wondering if a hint to unfold IsEmbedding would help.

If that can't be solved, then your Hint Extern seems reasonable.  Not sure where would be the best place for it.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Using `Hint Cut` it's possible to avoid infinite loops. Remove the `Hint Immediate` and do:
```coq
Existing Instance istruncmap_mapinO_tr | 2. (* The cost 2 is explained at the end. *)
Hint Cut [( _* ) istruncmap_mapinO_tr ( _* ) mapinO_tr_istruncmap] : typeclass_instances.
```
The `Hint Cut` works like this: Any invocation of `auto` (or similar) carries a list of applied Hints. Whenever a Hint matches the goal, it is appended to this list, and before the Hint is run Coq checks if any of the Cut-regexes match the list. If there's a match, then the Hint isn't run (and is removed from the list).

This works (regardless of cost), except for those cases where `simple apply` isn't strong enough and `apply isembedding_pr1_hset` is really needed. You could add the symmetric Cut as well, but just this cut is sufficient to avoid infinite loops. It's also smart to choose this Cut as opposed to the symmetric version, since a list ending at `istruncmap_mapinO_tr` could be valid (and are the only possibly valid lists) since it's a `Hint Immediate`. 

I think this is a fragile solution however: there can possibly be more loops than those avoided by the Cut; and the identifier in the Cut-list above doesn't feature any information about the bound variables when the Hint is applied, so *any* applications of the Hints count even if they apply to vastly different hypotheses. To get this compiling I had to replace a few `refine`s by `nrefine` and a few other minor changes, which isn't too bad but perhaps not good enough. It removed one line, [solving this comment](https://github.com/HoTT/HoTT/blob/da01833afb1d637ac424c05afeed86e23e9c0ef2/theories/Spaces/Finite.v#L887). (And after these changes, build time is preserved.)

Since `apply isembedding_pr_1hset` is really needed sometimes, i have to reach for `Extern`. Let me add that `Extern` produces no identifier in the Hint-list, so one has to be absolutely sure that no `Extern` produces any loops. In our case it doesn't.

Things like  `solve [ auto 1 ]` won't work since the number `1` in `auto` refers to the search depth which is different from the cost of an Instance.  Even for very basic things you need search depth >10, and there's no way to say "I just want to apply Instances with cost less than or equal to 1".

However with the Cut above avoiding infinite loops, we can do the following: 
```coq
Hint Extern 1 (IsEmbedding pr1) => apply isembedding_pr1_hset; solve [ typeclasses eauto ] : typeclass_instances.
```
which I guess is a bit stronger than the `solve [ trivial]` I had previously. Then `apply isembedding_pr1_hset` can be replaced with `typeclasses eauto.` (or is generally solved by an `rapply`) It's crucial here that the `Extern` has lower cost than the Instance at the beginning, otherwise `typeclasses eauto.` hangs because it tries the Instance first.

I'm not sure `Hint Cut` is production ready (it seems very rudimentary to me), but it does avoid the intended infinite loops above. The need to add `n` to a few `refine`s and `apply`s is a different issue, and stems partly from the fact that Coq doesn't infer sensible Instance costs by default (and we don't have a standard for setting them). So I think the initially suggested `Hint Extern` is the way to go, and I'll think about the placement.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: I didn't know about `Hint Cut`.  That looks promising.  In your discussion, I don't understand why `isembedding_pr1_hset` is needed at all after `istruncmap_mapinO_tr` and `mapinO_tr_istruncmap` are both made instances.  Shouldn't goals that `isembedding_pr1_hset` solves now be solved automatically?  (Or maybe a `Hint Unfold` is needed to make this work?)

It would probably be good to bring this idea up in the main HoTT repo for discussion.  It could help with a lot of things to have bidirectional instances.  Is it possible to make a draft PR illustrating how it would work, separate from everything else in this PR?

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 6 above)
Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:107]: (I'll get to these comments, this is replying to our `Hint Cut` discussion [above](https://github.com/jdchristensen/HoTT/pull/15/files#r550888694).)

It's this usage of `isembedding_pr1_hset` that the Instances are unable to solve; try replacing this line with
```coq
simple apply istruncmap_mapinO_tr.
simple apply mapinO_pr1.
```
Or even remove the `simple`s, it still fails. I'm not sure exactly why this is, but it seems the Lemma helps unify some variables.

File: theories/Algebra/Groups/ShortExactSequence.v (hunk 4 above)
Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: I explained why `isembedding_pr1_hset` is needed [here](https://github.com/jdchristensen/HoTT/pull/15/files#r550891777).

It's possible to make a separate PR. I'll do that and push it here first.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: For the record, `Hint Unfold` is unavaiable / not useful since `IsEmbedding` is a Notation.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: I'm confused about lots of things.  First, when I try putting
```coq
Remove Hints istruncmap_mapinO_tr : typeclass_instances.
Existing Instance istruncmap_mapinO_tr | 2. (* The cost 2 is explained at the end. *)
Hint Cut [( _* ) istruncmap_mapinO_tr ( _* ) mapinO_tr_istruncmap] : typeclass_instances.
```
in the ShortExactSequence.v file, I start getting typeclass resolution that loops.  So I can't test why `isembedding_pr1_hset` is needed (and don't understand why it would be).

I also don't understand your sentence "It's also smart to choose this Cut as opposed to the symmetric version, since a list ending at istruncmap_mapinO_tr could be valid (and are the only possibly valid lists) since it's a Hint Immediate."  You said to remove the Hint immediate, so I'm confused by this.

Also, notations can be unfolded, so it's not clear to me that Hint Unfold is not useful for them.

About the new PR, maybe it should go directly to the HoTT repo instead of here?

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Try `Hint Unfold IsEmbedding.`, it doesn't work for Notations. Or did you mean something else?

`Hint Immediate` avoids infinite loops by only allowing `istruncmap_mapinO_tr` to be the final Hint in an invocation of auto/typeclass resolution. To minimize impact on the codebase when changing this to an Instance with a Cut, we should allow those previous proofs. Choosing the opposite Cut would not allow `istruncmap_mapinO_tr` to be applied (even as a final step) after `mapinO_tr_istruncmap`, so there may be proofs that no longer work and you'd need to add `apply istruncmap_mapinO_tr` manually. It's not important for the demonstration, I'm just saying one direction is better than the other.

Give me a second to stash my changes, rebuild and see what's wrong.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Ok, I understand both of those things now.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Change line 56 to just `apply equiv_iff_hprop.`, that gets you to line 97 which is no longer needed.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: But the fact that I have to change line 56 is because typeclass resolution is looping if I don't.  And even if I make changes like that, when I get to the spot where you say Coq can't automatically replace `isembedding_pr1_hset`, if I put `exact _` there, I again get looping.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Okay, it wasn't crystal clear to me that those indicated loops necessarily. If you also add
```coq
Hint Cut [( _* ) istruncmap_mapinO_tr ( _* ) istruncmap_mapinO_tr] : typeclass_instances.
```
then you can keep `srapply` on line 56 and the `exact _.` on line 109 fails instead of looping.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Well, I don't know for sure if it is looping, but it is taking a very long time, which shouldn't happen.  I don't know why the single Hint Cut isn't enough to prevent this.  Maybe having both instances just multiplies the possibilities too much, and even if the first Hint Cut prevents loops, it still allows too many options that are redundant.

But even with the second Hint Cut, something very strange is going on.  Coq can't find typeclass instances that it should definitely know about.  E.g. try `rapply istruncmap_mapinO_tr.`  It leaves you with a goal that `mapinO_pr1` should handle, but doesn't.  So then you add `rapply mapinO_pr1.`, which leaves you with the goal `B -> In (Tr (-1)) (mon_unit = ispointed_group C)`, which should be easy for Coq.  Then you try `intro b'.  rapply inO_tr_istrunc.` which leaves you with `IsHProp (mon_unit = ispointed_group C)`, which Coq should know.  Why is it unable to find all of these instances that it could find before?

Comment (Alizter) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: `Set Typeclasses Debug` should let you see if it is looping.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: The issue is that an Instance may have more inverses than the obvious one. For example `inO_tr_istrunc` is inverse to `inO_contr` when the truncation index is (-2). (This caused problems that I'm currently solving in trying to prepare a draft PR.) But it seems to me now it's even better to do "reflexive" Cuts like in my previous comment, which should avoid this issue as well.

Thanks for making it clear that Coq should know these; it seems obvious now. I'll see what I can figure out, and I agree with you that `isembedding_pr1_hset` shouldn't be needed.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Just to build on your last paragraph @jdchristensen, the proof we want Coq to find is:
```Coq 
rapply (equiv_ap_isembedding pr1).
simple apply istruncmap_mapinO_tr.
simple apply mapinO_pr1.
intro b'.
simple apply inO_tr_istrunc.
simple apply istrunc_paths.
destruct C.
destruct group_isgroup.
destruct group_monoid.
destruct monoid_semigroup.
assumption. (* exact sg_set.)
```

The strange thing is that Coq never tries `istrunc_paths` on the goal `IsHProp (mon_unit = ispointed_group C)`, check this with just after `simple apply inO_tr_istrunc.`:

```coq
Set Typeclasses Debug.
Fail typeclasses eauto.
```
You can check that `istrunc_paths` should apply to this goal by looking at `Print Hint IsTrunc.` I'm stumped as to why it doesn't...

**Edit:** Maybe I'm wrong, I don't think `(e)auto` destructs hypotheses.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Okay, so I went back to a clean version of this branch (`ses`) without any of the `Hint Cut`s and the problem remains so it's unrelated to the `Hint Cut`s, just to be clear.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: I came to a similar conclusion, and I don't think the destruct is the issue.  Even if you pose `IsHSet C` into the environment, Coq isn't trying `istrunc_paths` for some reason.  E.g.
```coq
pose (sg_set C) as hs.
rapply istruncmap_mapinO_tr.
rapply mapinO_pr1.
intro b'. rapply inO_tr_istrunc.  (* After this line, Coq *still* can't find the proof. *)
rapply istrunc_paths.
```

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: The issue seems to be the following:
```coq
IsHProp (mon_unit = ispointed_group C) (* This is the goal *)
pattern IsTrunc ?META60 (?META62 = ?META63 :> ?META59) (* This is the pattern istrunc_paths matches *)
```
Note the `:>` in the pattern, which I think is the reason the Hint doesn't apply. Replacing the `istrunc_paths` instance by 
```coq
Hint Extern 1 (IsTrunc ?n (?x = ?y)) => simple apply istrunc_paths : typeclass_instances.
```
solves the issue and now
```coq
rapply (equiv_ap_isembedding pr1).
apply istruncmap_mapinO_tr.
typeclasses eauto.
```
works on a clean branch. (I'm now rebuilding to see how this interplays with the `Hint Cut`s.)

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Also, if you change the type of `Y` in the earlier lemma from `hSet` to `Group`, the earlier lemma still has a trivial proof:
```coq
Lemma isembedding_pr1_hset `{Funext} {X : Type} {Y : Group} (f : X -> Y) (y : Y)
  : IsEmbedding (pr1 : hfiber f y -> X).
Proof.
  exact _.
Defined.
```

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Oh, weird.  I was using "Set Printing All", and the hint was matching the goal.  But without that set, I do see that the hint has a slightly different form from the goal.  I can't see why the definition of the instance in Overture.v causes the discrepancy, but I guess a workaround is to use the form that you came up with.  When you add the bidirectional hints discussed above, then all that is needed is `rapply (equiv_ap_isembedding pr1).` which is the goal we were after!  Nice.

Of course, you'll need to check that no other places where the old hint matched become a problem with the new hint.  (And for efficiency, we don't want both hints, I think.)

I wonder if this discrepancy would be considered a bug in Coq?

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: I found a better way, you can specify patterns for Instances:
```coq
Global Instance istrunc_paths (A : Type) n `{H : IsTrunc n.+1 A} (x y : A)
: IsTrunc n (x = y) | (IsTrunc ?n (?x = ?y))
  := H x y. (* but do fold [IsTrunc] *)
```
This compiles without issues and gets us what we want, I think. Just need to clean things up and verify.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Nevermind, setting the pattern on the Instance doesn't actually work. The match fails like before, so the `Hint Extern` really seems necessary. I agree, this might be a bug. I'll follow up on that.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Great, that's cleaner.  I still don't understand why typeclass resolution worked in the proof of `isembedding_pr1_hset` with the hint that contained `:>`, but didn't work later in a very similar context.  I can't see what is different.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Oh, ok.  What's weird is that `x = y` and `x = y :> A` are just notations for fundamentally the same thing:
```coq
Notation "x = y :> A" := (@paths A x y) : type_scope.
Notation "x = y" := (x = y :>_) : type_scope.
```
I didn't think notations would interfere much with typeclass hints.  With Set Printing All, here is the data:
```coq
Default hint:
  simple apply istrunc_paths(level 1, pattern 
  IsTrunc ?META60 (@paths ?META59 ?META62 ?META63), id 0)

Goal in isembedding_pr1_hset, where exact _ works:
  IsTrunc (trunc_S minus_two)
    (@paths (@trunctype_type (trunc_S (trunc_S minus_two)) Y)
       (f b') y)

Goal in equiv_grp_isexact_issurjection, where exact _ doesn't work:
  IsTrunc (trunc_S minus_two)
    (@paths (group_type C)
       (@mon_unit (group_type C) (@group_unit C))
       (ispointed_group C))
```

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Thanks! I'm thoroughly puzzled and will come back to this after some air.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: If you do `change (ispointed_group C) with (point C).` then `exact _.` works afterwards, so it's not the `:>` that's killing the match but `ispointed_group`. Adding
```coq
Hint Unfold ispointed_group : typeclass_instances.
```
solves it. So there's no need for any `Hint Extern (IsTrunc ?n ...) ...` or changes to the `istrunc_paths` instance, fortunately!

I think that's the last of it. I'm double-checking build times and the changes needed, then I'll make a separate PR with the `Hint Cut`s. It seems to me now that we should use Cuts like this:
```coq
Hint Cut [( _* ) mapinO_tr_istruncmap ( _* ) mapinO_tr_istruncmap] : typeclass_instances.
Hint Cut [( _* ) istruncmap_mapinO_tr ( _* ) istruncmap_mapinO_tr] : typeclass_instances.
```
which clearly avoids loops, instead of a single directional cut like I had (and explained) previously. What do you think?

I've done this for `inO_tr_istrunc` and `istrunc_inO_tr` as well to test, and it seems to work fine.

Comment (jdchristensen) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Hmm, that's also pretty mysterious.  The library has very few `Hint Unfolds`, so they aren't usually needed.  I still feel like this should just work, but now it might be easier to construct a small example of the issue.  Since it really only involves the Overture and the IsPointed typeclass, it is fairly self-contained.

I think your proposed `Hint Cut`s look reasonable.  There should be some comments that while these avoid loops, they also rule out valid back-and-forth proofs in which these are used with different arguments.

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:48]: Okay, maybe the cleaner solution is this:
```coq
Typeclass Transparent IsPointed : typeclass_instances.
```
The docs say this makes `IsPointed` "transparent during typeclass resolution", maybe that's more efficient than `Hint Unfold`.
